US08071592B2
(g) 6-Oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carbonitrile
To a suspension of 6-oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carboxamide (0.69 g, 3 mmol) in DCM (30 ml) at 0° C. was added triethylamine (1.0 ml, 7.2 mmol) and trifluoromethanesulfonic anhydride (0.605 ml, 3.6 mmol) and the reaction was allowed warm to rt and stirred for 1 h at rt. Another four sequential treatments of triethylamine (1.0 ml, 7.2 mmol) and trifluoromethanesulfonic anhydride (0.605 ml, 3.6 mmol) over the next 6 h were necessary to drive the reaction almost to completion. The reaction mixture was treated with sat. aq NaHCO3 and the aqueous extracted twice more with DCM. The combined organic phases were then dried, evaporated and the residue was subjected to column chromatography on silica gel using a EtOAc:hexane gradient to provide the desired compound (0.570 g, 90%).

reactant | 6-oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carboxamide | 3 mmol, 0.69 g | O=C1N(C=2C=C(C=NC2C=C1)C(=O)N)CC=C | C12H11N3O2
reactant | triethylamine | 7.2 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 3.6 mmol, 0.605 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 7.2 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 3.6 mmol, 0.605 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-Oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carbonitrile | 0.570 g, 90% | O=C1N(C=2C=C(C=NC2C=C1)C#N)CC=C | C12H9N3O
